US20010047031A1
(S)-4-[1-(4-Phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol
The title compound, MS: m/e=328.3 (M+H+) and [α]n20=−6.26° (c=0.61, chloroform) was prepared from (S)-4-(pyrrolidin-3-yl-sulfanyl)-phenol hydrobromide and 4-phenyl-butyraldehyde.

reactant | (S)-4-(pyrrolidin-3-yl-sulfanyl)-phenol hydrobromide | Br.N1C[C@H](CC1)SC1=CC=C(C=C1)O
reactant | 4-phenyl-butyraldehyde | C1(=CC=CC=C1)CCCC=O | C10H12O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-4-[1-(4-Phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol | C1(=CC=CC=C1)CCCCN1C[C@H](CC1)SC1=CC=C(C=C1)O | C20H25NOS
